Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin / Erythromycin Base / daptomycin / Bactrim
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
PCP: ___.   
CC: abdominal pain  
REASON FOR MICU: hyperlactatemia 
 
HISTORY OF PRESENTING ILLNESS: ___ with poorly controlled DM c/b 
gastroparesis, frequent admissions for acute on chronic 
abdominal pain, re-presenting with severe abdominal pain, 
nausea, vomiting x 4 days. Pt recently discharged from ___ on 
___ (and ___ for similar issue which was managed with a 
protocol of lorazepam, reglan, and tramadol. Patient reports 
this is similar to her prior episodes of gastroparesis pain. She 
reports that she had several episodes of yellow bilious vomiting 
as well episodes of green diarrhea. She denies any fevers or 
chills.  She denies any chest pain. Unable to obtain further 
history as patient anxious and complaining of severe pain. 

In the ED, initial vitals: 97.8 ___ 19 100% RA 

Exam notable for: 
Morbidly obese woman crying and writhing in pain
Tachycardic, no murmurs
Lung exam limited by crying; no resp distress or Kussmaul 
breathing
Abd soft, diffusely tender, no rebound
No CVA tenderness
Ext warm, no edema
No rashes

Labs notable for: BS in the 400s-500s, WBC 18.1, Cr 1.2, lactate 
2.7, -> 3.3 --> 5.3, unremarkable VBGs

Imaging: CXR unremarkable, CT A/P showing no acute abnormalities

Patient received: 2L NS, 1L LR, zosyn, GI cocktail, reglan, 
Tylenol, insulin 10 units x 2 

Consults: None 

Vitals on transfer: 99.4 96 174/79 17 96% RA 

Upon arrival to ___, patient endorses abdominal pain. She 
reports its similar to prior flares but worse. Her sugars at 
home have been high in the 300s-400s on checks despite taking 
her home insulin regimen. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

PAST MEDICAL/SURGICAL HISTORY: Obtained from ___ and confirmed
with patient
- Abdominal pain with multiple admissions, extensive evaluation 
without clear etiology identified. Attributed to poorly 
controlled anxiety.  
- IDDM (type 2): HbA1c 6.8% (___), complicated by proteinuria 

- GERD  
- Hypertension  
- Depression  
- Obesity  
- Recurrent urinary tract infections possibly related to 
urethral diverticulum  
- Chronic back pain  
- IUD placement  
- venous access device-related blood stream infection  
- ?Reactive airway disease

SOCIAL HISTORY: ___
FAMILY HISTORY: Obtained from ___ and confirmed with patient
Mother with breast CA.

ALLERGIES/ADR: See webOMR

Medications: 
1.  Cyanocobalamin ___ mcg PO DAILY 
2.  FoLIC Acid 1 mg PO DAILY  
3.  Glargine 40 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
4.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
5.  Albuterol Inhaler 2 PUFF IH Q6H:PRN sob  
6.  Docusate Sodium 100 mg PO BID  
7.  Ferrous Sulfate 325 mg PO BID  
8.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
9.  Isosorbide Mononitrate 10 mg PO QHS  
10.  Lisinopril 20 mg PO DAILY  
11.  LORazepam 1 mg PO BID:PRN anxiety  
12.  NIFEdipine CR 120 mg PO DAILY  
13.  Omeprazole 40 mg PO DAILY  
14.  Ondansetron ODT 8 mg PO Q8H:PRN nausea  
15.  Pregabalin 50 mg PO DAILY pain  
16.  Propranolol LA 80 mg PO DAILY  
17.  Senna 8.6 mg PO BID:PRN constipation  
18.  Sertraline 200 mg PO DAILY  
19.  Sucralfate 1 gm PO QID  
20.  Sumatriptan Succinate 25 mg PO DAILY:PRN migraine  
21.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate  

VITALS: Reviewed in MetaVision
GENERAL: Writhing around in the bed, mild distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Tachycardic, no murmur 
RESP: Lungs clear to auscultation.  Breathing is non-labored
GI: Obese, soft, diffusely tender to palpation, no rebound or
guarding.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Moves all extremities, strength grossly full and symmetric
bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs, sensation to light touch grossly intact throughout

LABS/IMAGING: Reviewed in OMR. 

SUMMARY/ASSESSMENT: ___ female with history IDDM poorly 
controlled and gastroparesis with recurrent flares presents with
acute on chronic abdominal pain consistent with prior episodes 
of
gastroparesis, found to have hyperlactatemia of unclear 
etiology. 

ACUTE/ACTIVE PROBLEMS:

#Hyperlactatemia: Despite IVF resuscitation, trending upward to 
5.3 in the ED. Of unclear etiology. Hemodynamically stable. No 
concerning findings on CT A/P suggestive of bowel ischemia. CXR, 
urine unremarkable. Thoroughly reviewed medication list to 
explain a possibility of type-B lactic acidosis though no 
culprits found. No evidence of liver disease. Utox negative. 
- Continue to trend lactate
- Discuss additional w/u if no improvement 
- Serial abdominal exams 
- IVF PRN 
- Treatment of presumed intra-abdominal infection w/ zosyn, low 
threshold to discontinue 
- if worsening diarrhea, can send stool studies/c.diff
- F/u pending BCx, uCx 

#Acute on chronic abdominal pain
#Gastroparesis flare: Similar pain to prior flares with diarrhea 
and vomiting. Trial the patient's typical inpatient regimen, 
avoid narcotics due to effect of reduced GI motility. 
- Tramadol 50 q4 prn per usual tx regimen
- Tylenol ___ mg Q6H 
- reglan/Zofran use cautiously given QTc > 500. 
- GI cocktail, omeprazole PRN 
- ADAT, maintenance IVF if off meds 
- Consider palliative care consult for symptomatic treatment 
given recurrent admission 

___: Cr up to 1.2, baseline 1.0-1.1. Likely prerenal. 
- Continue to trend 

# Anxiety 
- Ativan BID:PRN 

# DM2 complicated by neuropathy and gastroparesis.
- Continue home lantus of 40 units, HISS 
- ___ need insulin teaching, ___ consult since uncontrolled  

# HTN
- continue home isosorbide, propranolol, nifedipine
- hold lisinopril iso ___, resume when able

# Chronic neutrophilic-predominant leukocytosis
# Chronic thrombocytosis
# Iron deficiency anemia: Evaluated by heme/onc during prior 
admission. Thought to be chronic stress response w/ leukomoid 
reaction, reactive thrombocytosis. Transfused with IV iron 
repletion during last hospitalization given GI symptoms and 
inability to tolerate PO. 
 - Continue to trend
 - Consider IV iron transfusion prior to discharge 

CORE MEASURES:
==============
# FEN: mIVF, replete electrolytes, regular diet  
# Prophylaxis: Subcutaneous heparin  
# Access: PIVs  
# Restraints: YES - while intubated to protect patient from 
accidental removal of tubes/lines/drains and will be reassessed 
at  regular intervals per hospital policy  
# Communication: HCP:  Name of health care proxy: ___ Gross 
Relationship: Daughter 
Phone number: ___ 

# Code: Full, presumed  
# Disposition: MICU

 
Past Medical History:
- Abdominal pain with multiple admissions, extensive evaluation 
without clear etiology identified. Attributed to poorly 
controlled anxiety.  
- IDDM (type 2): HbA1c 6.8% (___), complicated by proteinuria 

- GERD  
- Hypertension  
- Depression  
- Obesity  
- Recurrent urinary tract infections possibly related to 
urethral diverticulum  
- Chronic back pain  
- IUD placement  
- venous access device-related blood stream infection  
- ?Reactive airway disease
 
Social History:
___
Family History:
Mother - DM, breast cancer s/p treatment but now found to have  
recurred in her liver in ___ s/p surgery and she is 
getting better. 
 
 
Physical Exam:
Admission Physical Exam:
GENERAL: Writhing around in the bed, mild distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Tachycardic, no murmur 
RESP: Lungs clear to auscultation.  Breathing is non-labored
GI: Obese, soft, diffusely tender to palpation, no rebound or
guarding.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Moves all extremities, strength grossly full and symmetric
bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs, sensation to light touch grossly intact throughout

 
Pertinent Results:
Notable Admission Labs:

WBC-18.1* RBC-4.83# HGB-11.2# HCT-37.0# MCV-77* MCH-23.2* 
MCHC-30.3* RDW-17.3* RDWSD-48.3*
___ PO2-39* PCO2-49* PH-7.37 TOTAL CO2-29 BASE XS-1
LACTATE-5.3*
WBC-20.2* RBC-4.03 HGB-9.4* HCT-30.1* MCV-75* MCH-23.3* 
MCHC-31.2* RDW-*
LACTATE-2.0
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: ___ female with history IDDM poorly 
controlled and gastroparesis with recurrent flares presents with
acute on chronic abdominal pain consistent with prior episodes 
of
gastroparesis, found to have hyperlactatemia of unclear 
etiology. 

ACUTE/ACTIVE PROBLEMS:

#Hyperlactatemia: improved with aggressive hydration and control 
of diabetes, no clear etiology uncovered

#Acute on chronic abdominal pain attributed to exacerbation of 
gastroparesis - improved slowly with glycemic control.  At 
discharge pt tolerating a regular diet without difficulty. 

# DM2 complicated by neuropathy and gastroparesis.
- ___ consulted, and followed, insulin teaching provided, and 
insulin regimen adjusted, at discharged ___ consulted 
recommended the regimen below. 

Arranged ___ services to assist in diabetes education and 
monitoring at home. 

# HTN - controlled. 

# Chronic neutrophilic-predominant leukocytosis
# Chronic thrombocytosis
# Iron deficiency anemia: Evaluated by heme/onc during prior 
admission. Thought to be chronic stress response w/ leukomoid 
reaction, reactive thrombocytosis. Transfused with IV iron 
repletion during last hospitalization given GI symptoms and 
inability to tolerate PO. 
 - stable, outpatient follow up recommended.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
3. Docusate Sodium 100 mg PO BID 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Isosorbide Mononitrate 10 mg PO QHS 
6. Lisinopril 20 mg PO DAILY 
7. NIFEdipine CR 120 mg PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Ondansetron ODT 8 mg PO Q8H:PRN nausea 
10. Pregabalin 50 mg PO DAILY pain 
11. Propranolol LA 80 mg PO DAILY 
12. Senna 8.6 mg PO BID:PRN constipation 
13. Sertraline 200 mg PO DAILY 
14. Sucralfate 1 gm PO QID 
15. TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
16. Cyanocobalamin ___ mcg PO DAILY 
17. Ferrous Sulfate 325 mg PO BID 
18. Sumatriptan Succinate 25 mg PO DAILY:PRN migraine 
19. LORazepam 1 mg PO BID:PRN anxiety 
20. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  Glargine 30 Units Breakfast
Humalog 6 Units Breakfast
Humalog 6 Units Lunch
Humalog 6 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) AS DIR 
30 Units before BKFT; Disp #*3 Syringe Refills:*0 
2.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  
3.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN sob  
5.  Cyanocobalamin ___ mcg PO DAILY  
6.  Docusate Sodium 100 mg PO BID  
7.  Ferrous Sulfate 325 mg PO BID  
8.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
9.  FoLIC Acid 1 mg PO DAILY  
10.  Isosorbide Mononitrate 10 mg PO QHS  
11.  Lisinopril 20 mg PO DAILY  
12.  LORazepam 1 mg PO BID:PRN anxiety  
13.  NIFEdipine CR 120 mg PO DAILY  
14.  Omeprazole 40 mg PO DAILY  
15.  Ondansetron ODT 8 mg PO Q8H:PRN nausea  
16.  Pregabalin 50 mg PO DAILY pain  
17.  Propranolol LA 80 mg PO DAILY  
18.  Senna 8.6 mg PO BID:PRN constipation  
19.  Sertraline 200 mg PO DAILY  
20.  Sucralfate 1 gm PO QID  
21.  Sumatriptan Succinate 25 mg PO DAILY:PRN migraine  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute exacerbation of chronic diabetic gastroparesis with 
abdominal pain nausea vomiting and dehydration and poor glycemic 
control, dehydration, lactic acidosis, borderline ketoacidosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with abdominal pain nausea and vomiting and 
poorly controlled blood sugars relating to your diabetes and 
gastroparesis, you slowly improved with intravenous hydration 
and adjustment of your insulin regimen.

Please follow all instructions as written below take all 
medications as prescribed.  We have arranged for a visiting 
nurse to visit you at home and assist in your ongoing care.
 
Followup Instructions:
___